US07893056B2
Phenylmethyl [(1S)-1-(1-pyrrolidinylcarbonyl)propyl]carbamate (J. Med. Chem., 1991, 34, 3149-58) was dissolved in methanol (20 mL) (559 mg, 1.9 mmol). Pd(OH)2 (140 mg) was added, and the resulting suspension was stirred under a hydrogen balloon until the deprotection was complete. Filtration of the catalyst and evaporation of the solvent yielded [(1S)-1-(1-pyrrolidinylcarbonyl)propyl]amine (291 mg, 97%).

reactant | Phenylmethyl [(1S)-1-(1-pyrrolidinylcarbonyl)propyl]carbamate | N1(CCCC1)C(=O)[C@H](CC)NC(OCC1=CC=CC=C1)=O | C16H22N2O3
reactant | methanol | 1.9 mmol, 20 mL, 559 mg | CO | CH4O
catalyst | Pd(OH)2 | 140 mg | [OH-].[OH-].[Pd+2]
product | [(1S)-1-(1-pyrrolidinylcarbonyl)propyl]amine | 291 mg, 97% | N1(CCCC1)C(=O)[C@H](CC)N | C8H16N2O
